US06747048B2
Compound 55a: (3-Isopropyl-4-methoxyphenyl)methanol
To a solution of 3-isopropyl-4-methoxy-benzaldehyde (1.5 g, 8.42 mmol) in anhydrous THF (17 mL) cooled to -78° C. with a dry ice-acetone bath was added diisobutylaluminum hydride (34 mL, 1.0 M solution in THF, 34 mmol). After 1.5 h of cooling, 1N HCl (30 mL) was slowly added to the mixture. After the addition, the cooling bath was removed and the mixture left to stir at RT (ca. 15 min). The product was extracted with EtOAc (100 mL). The EtOAc extract was washed with brine (50 mL), dried (Na2SO4), filtered, and concentrated in vacuo to give 1.405 g of colorless oil as crude product. The crude product was purified by chromatography using the ISCO Combiflash SQ16X system (35 g Redisep silica gel column, 0 to 40% EtOAc in hexane for 30 min at 30 mL/min) to afford 1.272 g (84%) of compound 55 as a colorless oil.

reactant | 3-isopropyl-4-methoxy-benzaldehyde | 8.42 mmol, 1.5 g | C(C)(C)C=1C=C(C=O)C=CC1OC | C11H14O2
reactant | diisobutylaluminum hydride | 34 mmol, 1.0 M, 34 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | HCl | 1N, 30 mL | Cl | ClH
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | (3-Isopropyl-4-methoxyphenyl)methanol | 1.405 g | C(C)(C)C=1C=C(C=CC1OC)CO | C11H16O2
